US05959008
2,4-Bis(2',4'-dimethylphenyl)-6-(2'-hydroxy-4'-(2"-hydroxycyclohexyloxy)phenyl)-1,3,5-triazine
2-Phenyl-4,6-bis(2'-hydroxy-4'-(2"-hydroxycyclohexyloxy)phenyl)-1,3,5-triazine Procedure as under a) with 24-hour reaction of 1 equivalent of 2-phenyl-4,6-bis(2',4'-dihydroxyphenyl)-1,3,5-triazine with 3 equivalents of cyclohexene oxide in the presence of 0.1 equivalent of ethyltriphenylphosphonium bromide in mesitylene at 130° C. gives the title product of melting point 137-143° C.

reactant | 2-Phenyl-4,6-bis(2'-hydroxy-4'-(2"-hydroxycyclohexyloxy)phenyl)-1,3,5-triazine | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OC1C(CCCC1)O)O)C1=C(C=C(C=C1)OC1C(CCCC1)O)O | C33H35N3O6
reactant | 2-phenyl-4,6-bis(2',4'-dihydroxyphenyl)-1,3,5-triazine | 1 equivalent | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)O)O | C21H15N3O4
reactant | cyclohexene oxide | 3 equivalents | C12C(CCCC1)O2 | C6H10O
catalyst | ethyltriphenylphosphonium bromide | 0.1 equivalent | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2,4-Bis(2',4'-dimethylphenyl)-6-(2'-hydroxy-4'-(2"-hydroxycyclohexyloxy)phenyl)-1,3,5-triazine | CC1=C(C=CC(=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)OC1C(CCCC1)O)O | C31H33N3O3
